US04874768
1,1-Diethyl-3-(1,6-dimethyl-2-phenylthio-8α-ergolinyl)urea
Under argon, 0.3 ml (1.5 mmol) of distilled hexamethyldisilazane is added to 4 ml of anhydrous, freshly distilled toluene, and the mixture is cooled to 0° C. Then 0.85 ml (1.4 mmol) of 15% strength butyllithium in hexane is added dropwise and the mixture further stirred for 15 minutes at 0° C. A solution of 432 mg of 3-(2-bromo-1,6-dimethyl-8α-ergolinyl)-1,1-diethylurea (1 mmol) in 50 ml of anhydrous, freshly distilled toluene is added to this mixture, and the latter is stirred for another 15 minutes at 0° C. After addition of 1 ml of freshly distilled tetramethylethylenediamine, the batch is cooled to -90° C. At this temperature, 5 ml (7 mmol) of tert-butyllithium (14% in hexane) is added and the mixture is stirred for another 2 minutes before adding 1 g of diphenyldisulfide (5 mmol). After 2 hours of agitation at -70° C., water is added to work up the reaction mixture. Extraction is performed with ethyl acetate. The organic phases are washed with saturated sodium bicarbonate solution and water. The combined ethyl acetate phases are dried over sodium sulfate and concentrated. After crystallization from ethyl acetate and tert-butylmethyl ether, 180 mg of the desired compound is obtained (39% of theory).

reactant | hexamethyldisilazane | 1.5 mmol, 0.3 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | butyllithium | C(CCC)[Li]
reactant | 3-(2-bromo-1,6-dimethyl-8α-ergolinyl)-1,1-diethylurea | 1 mmol, 432 mg | BrC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1C)C32)NC(N(CC)CC)=O)C | C21H29BrN4O
reactant | tetramethylethylenediamine | CN(CCN(C)C)C | C6H16N2
reactant | tert-butyllithium | 7 mmol, 5 ml | C(C)(C)(C)[Li]
reactant | diphenyldisulfide | 5 mmol, 1 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1,1-Diethyl-3-(1,6-dimethyl-2-phenylthio-8α-ergolinyl)urea | 180 mg | C(C)N(C(=O)N[C@@H]1CN([C@@H]2CC3=C(N(C4=CC=CC([C@H]2C1)=C34)C)SC3=CC=CC=C3)C)CC | C27H34N4OS
